US04489003
A mixture of 3.59 g (10 mmol) of tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 1.5 g (6 mmol) of tetraethyl orthotitanate and 30 ml of benzyl alcohol is stirred at 130° for 6 hours, a small amount of solvent being distilled off in vacuo twice. The mixture is subsequently evaporated in a high vacuum, the residue is taken up in 40 ml of chloroform, the solution is treated with 40 ml of concentrated hydrochloric acid/water (1:1) and the mixture is stirred until both phases are clear. The chloroform solution is washed successively with 20 ml of 1N hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated to dryness. The residue is crystallized from ethyl acetate and there is obtained benzyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 180°-182°.

reactant | tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.59 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18ClN3O3
catalyst | tetraethyl orthotitanate | 6 mmol, 1.5 g | CCO.CCO.CCO.CCO.[Ti]
solvent | benzyl alcohol | 30 ml | C(C1=CC=CC=C1)O | C7H8O
product | benzyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=CC=CC=C3)CC1)=O | C21H16ClN3O3
